US04164497
2,2,2-Trichloroethyl 2-chloromethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (1.5 g) was dissolved in dried dimethylformamide (8 ml) and to this solution were added formic acid (1.5 ml) and then zinc powder (1.5 g) under stirring while ice-cooling. After stirring for 2 hours at the same temperature, zinc powder was filtered off and washed with dimethylformamide (5 ml). The filtrate and the washings were added to a mixed cool solution of ethylacetate (30 ml) and 5% hydrochloric acid (15 ml). After extracting with ethyl acetate, the extract was washed with water and dried over magnesium sulfate. The gummy substance (1.16 g) obtained by distilling off the solvent under reduced pressure was crystallized from a mixed solvent of ethyl acetate and isopropyl ether to give 2-chloromethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylic acid (660 mg) mp. 110° to 112° C. (dec.).

reactant | 2,2,2-Trichloroethyl 2-chloromethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 1.5 g | ClCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18Cl4N2O4S
reactant | formic acid | 1.5 ml | C(=O)O | CH2O2
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 1.5 g | [Zn] | Zn
product | 2-chloromethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylic acid | 660 mg | ClCC1(S[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C16H17ClN2O4S
